US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)ethanone
Following general procedure D, 1-(6-bromo-4-(6-(2-(dimethylamino)ethylamino)pyridine-3-ylamino)quinolin-3-yl)ethanone (100 mg, 0.23 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (101 mg, 0.35 mmol) to afford the desired product (39 mg, 33%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.28 (s, 1H), 8.26-8.17 (m, 2H), 8.04-7.99 (m, 2H), 7.67 (dd, J=9.0, 2.7 Hz, 1H), 7.28 (s, 2H), 6.93 (d, J=9.0 Hz, 1H), 3.86-3.82 (m, 2H), 3.44-3.36 (m, 2H), 2.96 (s, 6H), 2.81 (s, 3H); ESI MS m/z 510 [C26H25Cl2N5O2+H]+; HPLC 96.6% (AUC), tR=10.74 min.

reactant | 1-(6-bromo-4-(6-(2-(dimethylamino)ethylamino)pyridine-3-ylamino)quinolin-3-yl)ethanone | 0.23 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NC(=CC1)NCCN(C)C | C20H22BrN5O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.35 mmol, 101 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(2-(dimethylamino)ethylamino)pyridin-3-ylamino)quinolin-3-yl)ethanone | 39 mg, 33% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NC(=CC1)NCCN(C)C | C26H25Cl2N5O2
